US03971797
Step A: Preparation of 3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-3-isothioureidomethyl-2-methylpyridine dihydrochloride
A mixture of 0.1 mole of 5-chloromethyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-2-methylpyridine hydrochloride, 0.11 mole of thiourea are refluxed 2 hours in 100 ml. isopropanol. The reaction mixture is cooled and 3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-3-isothioureidomethyl-2-methylpyridine dihydrochloride is separated by filtration.

reactant | 5-chloromethyl-3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-2-methylpyridine hydrochloride | 0.1 mole | Cl.ClCC=1C(=C(C(=NC1)C)OC(=O)OCC)COC(=O)OCC
reactant | thiourea | 0.11 mole | NC(=S)N | CH4N2S
reactant | isopropanol | C(C)(C)O | C3H8O
product | 3-ethoxycarbonyloxy-4-ethoxycarbonyloxymethyl-3-isothioureidomethyl-2-methylpyridine dihydrochloride | Cl.Cl.C(C)OC(=O)OC1(C(N=CC=C1COC(=O)OCC)C)CNC(S)=N | InChI=1S/C15H23N3O6S.2ClH/c1-4-21-13(19)23-8-11-6-7-17-10(3)15(11,9-18-12(16)25)24-14(20)22-5-2;;/h6-7,10H,4-5,8-9H2,1-3H3,(H3,16,18,25);2*1H
